US04348320
Step B: 1-(Benzyloxycarbonylchloromethyl)-4-(2-acetoxyethyl)-2-azetidinone
1-(Benzyloxycarbonyl hydroxymethyl)-4-(2-acetoxyethyl)-2-azetidinone (1.8 g) is dissolved in 30 ml THF under N2 and cooled to -20° C. Pyridine 0.45 ml is added and then thionylchloride (0.390 ml in 4 ml THF) is added dropwise over 2 minutes. The reaction mixture is stirred at -20° C., for 5 minutes. The cooling bath is removed and the reaction mixture is stirred for another 25 minutes. The reaction mixture is diluted with 30 ml benzene and filtered. The filtrate is evaporated under reduced pressure at 5° C. The residue is 1-(benzyloxycarbonylchloromethyl)-4-(2-acetoxyethyl)-2-azetidinone which is used directly in the next reaction.

reactant | 1-(Benzyloxycarbonyl hydroxymethyl)-4-(2-acetoxyethyl)-2-azetidinone | 1.8 g | C(C1=CC=CC=C1)OC(=O)C(N1C(CC1CCOC(C)=O)=O)O | C16H19NO6
reactant | Pyridine | 0.45 ml | N1=CC=CC=C1 | C5H5N
reactant | thionylchloride | 0.390 ml | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(Benzyloxycarbonylchloromethyl)-4-(2-acetoxyethyl)-2-azetidinone | C(C1=CC=CC=C1)OC(=O)C(N1C(CC1CCOC(C)=O)=O)Cl | C16H18ClNO5
